US09212182B2
4-Aminopyrimidine (0.099 g, 1.038 mmol) was dissolved in dimethyl sulfoxide (1.997 ml), and perfluorophenyl 1-(3′-chloro-5′-fluoro-4-methoxy-[1,1′-biphenyl]-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonate (0.500 g, 0.799 mmol) in tetrahydrofuran (5.99 ml) was added as a solution. The reaction was cooled to 0° C. and LHMDS, 1.0M in THF (1.837 ml, 1.837 mmol) was added drop wise. The reaction mixture was diluted with EtOAc and 1N HCl (aq). The layers were separated, and the aqueous was washed (xl) with EtOAc. The combined organics were dried over magnesium sulfate, filtered and concentrated in vacuo. The crude material was purified via MPLC, eluting with 0-100% ethyl acetate in heptane (with a 10% DCM additive), to yield 1-(3′-chloro-5′-fluoro-4-methoxy-[1,1′-biphenyl]-3-yl)-2-oxo-N-(pyrimidin-4-yl)-1,2-dihydroquinoline-6-sulfonamide (0.210 g, 0.391 mmol, 49.0% yield) as a white solid. m/z (ESI) 537.0 (M+H)+. 1H NMR (400 MHz, DMSO-d6) δ ppm 3.73 (s, 3 H) 6.75 (d, J=8.91 Hz, 1 H) 6.80 (d, J=9.64 Hz, 1 H) 7.00 (br. s., 1 H) 7.34-7.42 (m, 2 H) 7.59-7.64 (m, 1 H) 7.68 (t, J=1.61 Hz, 1 H) 7.86 (d, J=2.49 Hz, 1 H) 7.89 (dd, J=8.97, 2.02 Hz, 1 H) 8.02 (dd, J=8.76, 2.44 Hz, 1 H) 8.24 (d, J=9.54 Hz, 1 H) 8.27-8.34 (m, 1 H) 8.43 (s, 1 H) 8.60 (s, 1 H). 1-(3′-chloro-5′-fluoro-4-methoxy-[1,1′-biphenyl]-3-yl)-2-oxo-N-(pyrimidin-4-yl)-1,2-dihydroquinoline-6-sulfonamide was separated by chiral SFC on a Chiralpak AD with 30% isopropanol to give (P)-1-(3′-chloro-5′-fluoro-4-methoxy-3-biphenylyl)-2-oxo-N-4-pyrimidinyl-1,2-dihydro-6-quinolinesulfonamide as peak 1 and (M)-1-(3′-chloro-5′-fluoro-4-methoxy-3-biphenylyl)-2-oxo-N-4-pyrimidinyl-1,2-dihydro-6-quinolinesulfonamide as peak 2. Data for peak 1: m/z (ESI) 537.0 (M+H)+. 1 H NMR (400 MHz, DMSO-d6) δ ppm 3.73 (s, 3 H) 6.75 (d, J=8.81 Hz, 6.79 (d, J=9.64 Hz, 1 H) 6.98 (br. s., 1 H) 7.34-7.41 (m, 2 H) 7.62 (dt, J=7.63 Hz, 1 H) 7.68 (t, J=1.61 Hz, 1 H) 7.86 (d, J=2.38 Hz, 1 H) 7.87-7.91 (m, 1 H) 8.02 (dd, J=8.76, 2.44 Hz, 1 H) 8.23 (d, J=9.54 Hz, 1 H) 8.26-8.31 (m, 1 H) 8.40-8.44 (m, 1 H) 8.59 (s, 1 H). Data for peak 2: m/z (ESI) 537.0 (M+H)+. 1 H NMR (400 MHz, DMSO-d6) δ ppm 3.73 (s, 3H) 6.75 (d, J=9.02 Hz, 1 H) 6.79 (d, J=9.64 Hz, 1 H) 7.00 (br. s., 1 H) 7.35-7.41 (m, 2 H) 7.61 (dt, J=6.43 Hz, 1 H) 7.68 (t, J=1.55 Hz, 1 H) 7.86 (d, J=2.49 Hz, 1 H) 7.87-7.91 (m, 1H) 8.02 (dd, J=8.71, 2.49 Hz, 1 H) 8.24 (d, J=9.64 Hz, 1 H) 8.29 (br. s., 1 H) 8.41-8.44 (m, 1H) 8.59 (s, 1 H). The sulfonamide —NH was not observed in the NMR spectra of the three compounds.

reactant | 4-Aminopyrimidine | 1.038 mmol, 0.099 g | NC1=NC=NC=C1 | C4H5N3
reactant | perfluorophenyl 1-(3′-chloro-5′-fluoro-4-methoxy-[1,1′-biphenyl]-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonate | 0.799 mmol, 0.500 g | ClC=1C=C(C=C(C1)F)C1=CC(=C(C=C1)OC)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)OC1=C(C(=C(C(=C1F)F)F)F)F)=O | C28H14ClF6NO5S
reactant | LHMDS | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
solvent | dimethyl sulfoxide | 1.997 ml | CS(=O)C | C2H6OS
solvent | tetrahydrofuran | 5.99 ml | O1CCCC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | HCl | 1N | Cl | ClH
solvent | THF | 1.837 mmol, 1.837 ml | C1CCOC1 | C4H8O
product | 1-(3′-chloro-5′-fluoro-4-methoxy-[1,1′-biphenyl]-3-yl)-2-oxo-N-(pyrimidin-4-yl)-1,2-dihydroquinoline-6-sulfonamide | 0.391 mmol, 0.210 g, 49.0% yield | ClC=1C=C(C=C(C1)F)C1=CC(=C(C=C1)OC)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)NC1=NC=NC=C1)=O | C26H18ClFN4O4S
